US05965614
Synthesis of N-(3,4-methylenedioxyphenyl)alanine Iso-butyl Ester
Following reductive amination General Procedure A above and using 3,4-methylenedioxyaniline (Aldrich) and methyl pyruvate (Aldrich), N-(3,4-methylenedioxyphenyl)alanine methyl ester was prepared. The methyl ester was then transesterified following General Procedure Q above and using iso-butanol to provide the title compound as an oil. The reaction was monitored by silica gel tlc (Rf=0.61 in 25% EtOAc/hexanes). Purification was by preparative plate chromatography with silica gel using 25% EtOAc/hexanes as the eluant.

reactant | 3,4-methylenedioxyaniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | methyl pyruvate | C(C(=O)C)(=O)OC | C4H6O3
reactant | N-(3,4-methylenedioxyphenyl)alanine methyl ester | COC([C@@H](NC1=CC2=C(C=C1)OCO2)C)=O | C11H13NO4
solvent | iso-butanol | C(C(C)C)O | C4H10O
product | N-(3,4-methylenedioxyphenyl)alanine Iso-butyl Ester | C(C(C)C)OC([C@@H](NC1=CC2=C(C=C1)OCO2)C)=O | C14H19NO4
